US06331521B1
To a solution of 2-(4-pentyloxybenzamido)-4′-bromoacetophenone (3.39 g) in tetrahydrofuran (34 ml) was added phosphorus pentasulfide (2.43 g), and refluxed for 30 minutes. The reaction mixture was cooled, and poured into saturated sodium hydrogen carbonate aqueous solution (400 ml), and stirred for 1.5 hours. The resulting precipitate was collected by filtration to give 2-(4-pentyloxyphenyl)-5-(4-bromophenyl)thiazole (2.32 g).

reactant | 2-(4-pentyloxybenzamido)-4′-bromoacetophenone | 3.39 g | C(CCCC)OC1=CC=C(C(=O)NCC(=O)C2=CC=C(C=C2)Br)C=C1 | C20H22BrNO3
reactant | phosphorus pentasulfide | 2.43 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium hydrogen carbonate | 400 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 34 ml | O1CCCC1 | C4H8O
product | 2-(4-pentyloxyphenyl)-5-(4-bromophenyl)thiazole | 2.32 g | C(CCCC)OC1=CC=C(C=C1)C=1SC(=CN1)C1=CC=C(C=C1)Br | C20H20BrNOS
